US08114872B2
1-(6-Fluoro-4-iodo-pyridin-3-yl)-ethanol
Add 1 N HCl (5 mL) to a solution of 2-fluoro-4-iodo-5-(1-methoxymethoxy-ethyl)-pyridine (1 g, 3.2 mmol) in methanol (10 mL). Stir the mixture overnight. Dilute the reaction mixture with sodium carbonate (2 N). Extract the product into chloroform. Dry the organic phase over sodium sulfate. Concentrate the solution in vacuo. Purify the crude by column chromatography (10% methanol in DCM) to afford the title compound as a white solid (0.75 g, 87%). MS (ES) m/z 268 [M+1]+.

reactant | HCl | 1 N, 5 mL | Cl | ClH
reactant | 2-fluoro-4-iodo-5-(1-methoxymethoxy-ethyl)-pyridine | 3.2 mmol, 1 g | FC1=NC=C(C(=C1)I)C(C)OCOC | C9H11FINO2
solvent | methanol | 10 mL | CO | CH4O
solvent | sodium carbonate | 2 N | C([O-])([O-])=O.[Na+].[Na+]
product | 1-(6-Fluoro-4-iodo-pyridin-3-yl)-ethanol | 0.75 g, 87% | FC1=CC(=C(C=N1)C(C)O)I | C7H7FINO
